US08476261B2
49E) Preparation of ethyl 3-[1-(1-hydroxy-2-propyl)-cyclobutylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate
A solution of 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate (6.13 g, 23.2 mmol), Ac2O (13.2 mL, 0.140 mol) and triethyl orthoformate (7.80 mL, 46.8 mmol) was stirred at 120° C. for 3 hours. The mixture was concentrated in vacuo and dried under high vacuum. To the mixture of the residue in anhydrous toluene (100 mL) was slowly added 2-(1-aminocyclobutyl)propanol (3.00 g, 23.2 mmol) in anhydrous toluene (40 mL) at 0° C. The mixture was stirred at room temperature for 2 hours and the solvent was removed by evaporation. Flash chromatography (AcOEt:Hexane=1:1) of the residue gave the title compound as a colorless solid (6.23 g, 67%). 1H-NMR (400 MHz, CDCl3) δ 0.95 (0.6H, t, J=7.3 Hz), 0.97 (3H, d, J=7.3 Hz), 1.09 (2.4H, t, J=7.3 Hz), 1.54 (1H, t, J=4.9 Hz), 1.85-2.15 (3H, m), 2.19-2.50 (4H, m), 3.62-3.75 (2H, m), 4.02 (0.2H, q, J=7.3 Hz), 4.07 (0.8H, q, J=7.3 Hz), 6.97-7.13 (1H, m), 8.24 (0.8H, d, J=15.3 Hz), 8.25 (0.2H, d, J=15.3 Hz), 10.03 (0.2H, d, J=14.1 Hz), 11.40 (0.8H, d, J=14.1 Hz).

reactant | 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate | 23.2 mmol, 6.13 g | O=C(CC(=O)[O-])C1=C(C(=C(C(=C1)F)F)F)F
reactant | Ac2O | 0.140 mol, 13.2 mL | CC(=O)OC(=O)C | C4H6O3
reactant | triethyl orthoformate | 46.8 mmol, 7.80 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 2-(1-aminocyclobutyl)propanol | 23.2 mmol, 3.00 g | NC1(CCC1)C(CO)C | C7H15NO
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-[1-(1-hydroxy-2-propyl)-cyclobutylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate | 6.23 g, 67% | OCC(C)C1(CCC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C19H21F4NO4
